US08791255B2
The product is prepared according to the procedure described in Example 5, using 250 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 270 mg of 3-(trifluoromethoxy)aniline in place of the 2,4-difluoroaniline. 230 mg of 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-[3-(trifluoromethoxy)phenyl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 250 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 3-(trifluoromethoxy)aniline | 270 mg | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
product | 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-[3-(trifluoromethoxy)phenyl]acetamide | 230 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)NC1=CC(=CC=C1)OC(F)(F)F | C17H17F3N4O4
